US04000302
A solution of 2-(3-aminopropylamino)pyridine (2.74 g.) and methyl isothiocyanate (1.46 g.) in isopropyl alcohol (50 ml.) was stirred at room temperature for 16 hours. Concentration, followed by trituration of the residue under methyl ethyl ketone gave the crude product which, was recrystallized from aqueous ethanol to give N-methyl-N'-[3-(2-pyridylamino)propyl]thiourea (2.45 g.) m.p. 134°-135.5°.

reactant | 2-(3-aminopropylamino)pyridine | 2.74 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | methyl isothiocyanate | 1.46 g | CN=C=S | C2H3NS
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | N-methyl-N'-[3-(2-pyridylamino)propyl]thiourea | 2.45 g | CNC(=S)NCCCNC1=NC=CC=C1 | C10H16N4S
